US08278319B2
Stage 2: 3-(1-(4-Chloro-2,5-dimethylphenylsulfonyl)piperidin-2-yl)propionic acid ethyl ester
4-Chloro-2,5-dimethyl-benzenesulfonyl chloride (1 g, 3.8 mmol) was added to a solution of ethyl 3-(piperidin-2-yl)propionic acid ethyl ester hydrochloride (1.1 g, 4.6 mmol) in dichloromethane (15 ml) while stirring, the mixture was cooled to 0° C., and triethylamine (1.6 ml, 11.5 mmol) was added dropwise over 15 min. The mixture was stirred for 4 h at 0° C., then diluted with dichloromethane, washed with water and saturated sodium chloride solution, dried over sodium sulfate and concentrated to small volume under vacuum. The crude product was purified with ethyl acetate/hexane (9:1) by column chromatography. Yield: 50%

reactant | 4-Chloro-2,5-dimethyl-benzenesulfonyl chloride | 3.8 mmol, 1 g | ClC1=CC(=C(C=C1C)S(=O)(=O)Cl)C | C8H8Cl2O2S
reactant | ethyl 3-(piperidin-2-yl)propionic acid ethyl ester hydrochloride | 4.6 mmol, 1.1 g | Cl.C(C)OC(C(CC1NCCCC1)CC)=O
reactant | triethylamine | 11.5 mmol, 1.6 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 3-(1-(4-Chloro-2,5-dimethylphenylsulfonyl)piperidin-2-yl)propionic acid ethyl ester | Yield: 50% | C(C)OC(CCC1N(CCCC1)S(=O)(=O)C1=C(C=C(C(=C1)C)Cl)C)=O | C18H26ClNO4S
